* gnetlist -g spice-sdb -o basicExampleA.net basicExampleA.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V2 n3 0 DC 10V
R1 n1 n3 5  
R3 n2 n3 4  
R4 0 n2 4  
R2 n1 n2 4  
V1 n1 0 DC 5V
.end
