**************************************************************
*  Electronic circuit simulation file generated by gSpiceUI  *
*                Version 1.0.00 (23/09/2011)                 *
**************************************************************

* Component Definitions
R1 n1 n3 5
R2 n1 n2 4
R3 n2 n3 4
R4 0 n2 4
V1 n1 0 DC 5V
V2 n3 0 DC 10V

* GNU-Cap Simulation Commands
.OPTIONS NOPAGE VNTOL=0.00m
.PRINT DC V(V2) V(n1)
.DC V1 0.00m 100.00m BY 10.00m TE 27.00 BASIC

.END

